US08440662B2
Step 4: 8-Bromo-1H-quinazoline-2,4-dione
To a 100 mL round bottom flask, 2-amino-3-bromo-benzoic acid (5 g, 0.0234 mol) and urea (7.33 g, 0.122 mol) were added. The reaction mixture was stirred at 195° C. for 3 h. The reaction mixture was allowed to reach 80° C. and water was added. The aqueous reaction mixture was stirred for 5-10 min and filtered to afford the title compound [5.4 g, 97%]. This material was taken to the next step without any further purification.

reactant | 2-amino-3-bromo-benzoic acid | 0.0234 mol, 5 g | NC1=C(C(=O)O)C=CC=C1Br | C7H6BrNO2
reactant | urea | 0.122 mol, 7.33 g | NC(=O)N | CH4N2O
solvent | water | O | H2O
product | 8-Bromo-1H-quinazoline-2,4-dione | 5.4 g, 97% | BrC=1C=CC=C2C(NC(NC12)=O)=O | C8H5BrN2O2
